US08633173B2
198 c) {8-[4-(Dimethyl-phosphinoyl)-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-2-yl}-[3-(4-methyl-piperazin-1-yl)-phenyl]-amine was prepared from 2-chloro-8-[4-(dimethyl-phosphinoyl)-phenyl]-[1,2,4]triazolo[1,5-a]pyridine (100.0 mg, 0.3271 mmol) and 3-(4-methylpiperazin-1-yl)aniline (70.0 mg, 0.366 mmol) with 2,2′-bis-dicyclohexylphosphanyl-biphenyl (28.0 mg, 0.0512 mmol) as the ligand in a manner analogous to Example 2d. Product isolated as a tan solid (0.097 g, 64%). MP=243-246° C. 1H NMR (400 MHz, CDCl3, δ, ppm): 8.46 (d, J=6.2 Hz, 1H), 8.15 (d, J=8.0 Hz, 2H), 7.92-7.84 (m, 2H), 7.63-7.50 (m, 1H), 7.34 (s, 1H), 7.23 (t, J=8.2 Hz, 1H), 7.02-6.96 (m, 2H), 6.84 (s, 1H), 6.59 (d, J=7.8 Hz, 1H), 3.30-3.25 (m, 4H), 2.63-2.58 (m, 4H), 2.37 (s, 3H), 1.80 (s, 3H), 1.77 (s, 3H). MS=461 (MH)+.

reactant | 2-chloro-8-[4-(dimethyl-phosphinoyl)-phenyl]-[1,2,4]triazolo[1,5-a]pyridine | 0.3271 mmol, 100.0 mg | ClC1=NN2C(C(=CC=C2)C2=CC=C(C=C2)P(=O)(C)C)=N1 | C14H13ClN3OP
reactant | 3-(4-methylpiperazin-1-yl)aniline | 0.366 mmol, 70.0 mg | CN1CCN(CC1)C=1C=C(N)C=CC1 | C11H17N3
reactant | 2,2′-bis-dicyclohexylphosphanyl-biphenyl | 0.0512 mmol, 28.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1CCCCC1 | C36H52P2
product | {8-[4-(Dimethyl-phosphinoyl)-phenyl]-[1,2,4]triazolo[1,5-a]pyridin-2-yl}-[3-(4-methyl-piperazin-1-yl)-phenyl]-amine | CP(=O)(C1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(N2)NC2=CC(=CC=C2)N2CCN(CC2)C)C | C25H29N6OP
